US05712267
(2S,4S)-4-Mercapto-2-[(3R)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-3-ylaminocarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 19, but using 6.4 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 2.40 g of N,N'-carbonyldiimidazole and 2.7 g of (3R)-3-amino-1-t-butoxycarbonylpyrrolidine, 750 mg of the title compound were obtained as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 6.4 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | (3R)-3-amino-1-t-butoxycarbonylpyrrolidine | 2.7 g | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
product | (2S,4S)-4-Mercapto-2-[(3R)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-3-ylaminocarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 750 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H27N5O9S
